US07544684B2
1.1 A solution of 70 ml 3-chlorocarbonyl-propionic acid methyl ester in 100 ml dichloromethane is added to a suspension of 80.0 g of AlCl3 in 300 ml dichloromethane at 20-25°. At 0° a solution of 85.0 g 1,2-diethoxybenzene in 100 ml dichloromethane is added. The solution is tirred for 14 hours at room temperature. Work-up is as usual, yielding 122.2 g of 4-(3,4-diethoxy-phenyl)-4-oxo-butyric acid methyl ester (“AA”), m.p. 84-85°.

reactant | 3-chlorocarbonyl-propionic acid methyl ester | 70 ml | COC(CCC(=O)Cl)=O | C5H7ClO3
reactant | AlCl3 | 80.0 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | 1,2-diethoxybenzene | 85.0 g | C(C)OC1=C(C=CC=C1)OCC | C10H14O2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(3,4-diethoxy-phenyl)-4-oxo-butyric acid methyl ester | 122.2 g | COC(CCC(=O)C1=CC(=C(C=C1)OCC)OCC)=O | C15H20O5
